*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-03[uF]/630[V]
* Murata P/N :GCM21B5C2J102FX03
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J102FX03 Port1 Port2
C01 Port1 N01 1.00e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.11e-10
R03 N02 N03 1.43e-03
C04 N03 N04 1.11e-08
R04 N03 N04 5.27e+02
L05 N04 N05 8.07e-11
R05 N04 N05 6.86e-01
L06 N05 N06 1.00e-10
R06 N05 N06 2.87e-02
C07 N06 N07 5.66e-09
L07 N06 N07 2.49e-11
R07 N06 N07 7.31e-01
C08 N07 N08 1.69e-09
L08 N07 N08 3.46e-11
R08 N07 N08 1.06e+00
C09 N08 N09 1.85e-09
L09 N08 N09 9.93e-12
R09 N08 N09 2.83e-01
C10 N09 Port2 8.87e-13
L10 N09 Port2 3.60e-10
R10 N09 Port2 8.16e+02
.ENDS GCM21B5C2J102FX03
