*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/6.80e-04[uF]/630[V]
* Murata P/N :GCM21B5C2J681GX03
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J681GX03 Port1 Port2
C01 Port1 N01 6.80e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.53e-10
R03 N02 N03 2.56e-03
C04 N03 N04 1.58e-06
R04 N03 N04 9.37e-03
C05 N04 N05 5.26e-09
L05 N04 N05 9.52e-11
R05 N04 N05 3.96e-02
C06 N05 N06 3.77e-09
L06 N05 N06 2.12e-11
R06 N05 N06 6.19e-01
C07 N06 N07 1.02e-09
L07 N06 N07 3.06e-11
R07 N06 N07 1.02e+00
C08 N07 N08 4.44e-10
L08 N07 N08 1.97e-11
R08 N07 N08 3.08e-01
C09 N08 N09 8.96e-12
L09 N08 N09 4.51e-11
R09 N08 N09 9.54e-01
C10 N09 Port2 8.53e-13
L10 N09 Port2 3.95e-10
R10 N09 Port2 5.63e+02
.ENDS GCM21B5C2J681GX03
