*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/8.20e-04[uF]/630[V]
* Murata P/N :GCM21B5C2J821JX03
* Property : C = 8.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J821JX03 Port1 Port2
C01 Port1 N01 8.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 6.21e-11
R03 N02 N03 3.07e-03
C04 N03 N04 2.07e-07
R04 N03 N04 9.89e-01
L05 N04 N05 5.44e-11
R05 N04 N05 7.94e-01
L06 N05 N06 1.07e-10
R06 N05 N06 3.65e-02
C07 N06 N07 5.12e-09
L07 N06 N07 1.93e-11
R07 N06 N07 5.96e-01
C08 N07 N08 1.21e-09
L08 N07 N08 3.48e-11
R08 N07 N08 1.08e+00
C09 N08 N09 1.09e-08
L09 N08 N09 1.81e-12
R09 N08 N09 8.58e-02
C10 N09 N10 1.10e-09
L10 N09 N10 1.14e-11
R10 N09 N10 3.51e-01
C11 N10 N11 1.63e-09
L11 N10 N11 3.08e-12
R11 N10 N11 1.55e-01
C12 N11 Port2 7.66e-13
L12 N11 Port2 4.41e-10
R12 N11 Port2 4.57e+02
.ENDS GCM21B5C2J821JX03
