*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.80e-02[uF]/80[V]
* Murata P/N :GCM21B5C1K183JA16
* Property : C = 1.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C1K183JA16 Port1 Port2
C01 Port1 N01 1.81e-08
R01 Port1 N01 5.56e+10
L02 N01 N02 6.97e-11
R03 N02 N03 3.78e-03
C04 N03 N04 3.40e-06
R04 N03 N04 1.14e+00
C05 N04 N05 6.91e-05
R05 N04 N05 4.95e-03
L06 N05 N06 1.04e-10
R06 N05 N06 1.66e-01
L07 N06 N07 8.21e-11
R07 N06 N07 6.30e-03
C08 N07 N08 6.26e-08
L08 N07 N08 4.09e-11
R08 N07 N08 2.75e-01
C09 N08 N09 3.31e-08
L09 N08 N09 3.44e-11
R09 N08 N09 2.53e-01
C10 N09 N10 1.09e-07
L10 N09 N10 5.21e-12
R10 N09 N10 8.94e-02
C11 N10 N11 3.97e-08
L11 N10 N11 8.98e-12
R11 N10 N11 9.90e-02
C12 N11 Port2 5.39e-13
L12 N11 Port2 2.94e-10
R12 N11 Port2 1.92e+02
.ENDS GCM21B5C1K183JA16
