*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.00e-02[uF]/80[V]
* Murata P/N :GCM21B5C1K203JA01
* Property : C = 2.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C1K203JA01 Port1 Port2
C01 Port1 N01 2.04e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.04e-10
R03 N02 N03 3.60e-03
C04 N03 N04 4.58e-06
R04 N03 N04 7.27e-01
C05 N04 N05 1.03e-04
R05 N04 N05 3.32e-03
L06 N05 N06 1.09e-10
R06 N05 N06 1.77e-01
L07 N06 N07 8.42e-11
R07 N06 N07 5.92e-03
C08 N07 N08 4.31e-08
L08 N07 N08 7.23e-11
R08 N07 N08 3.04e-01
C09 N08 N09 3.94e-08
L09 N08 N09 3.39e-11
R09 N08 N09 2.53e-01
C10 N09 N10 5.58e-08
L10 N09 N10 1.29e-11
R10 N09 N10 8.43e-02
C11 N10 N11 4.88e-08
L11 N10 N11 8.79e-12
R11 N10 N11 9.41e-02
C12 N11 Port2 1.25e-12
L12 N11 Port2 2.16e-10
R12 N11 Port2 9.42e+01
.ENDS GCM21B5C1K203JA01
