*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/2.70e-03[uF]/250[V]
* Murata P/N :GCM21B7U2E272JX03
* Property : C = 2.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B7U2E272JX03 Port1 Port2
C01 Port1 N01 2.68e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 6.11e-11
R03 N02 N03 1.37e-02
L04 N03 N04 7.94e-11
R04 N03 N04 5.24e-01
C05 N04 N05 4.15e-08
L05 N04 N05 5.24e-11
R05 N04 N05 1.66e-02
C06 N05 N06 1.39e-08
L06 N05 N06 2.09e-11
R06 N05 N06 2.19e-01
C07 N06 N07 3.82e-09
L07 N06 N07 3.06e-11
R07 N06 N07 4.20e-01
C08 N07 Port2 8.15e-13
L08 N07 Port2 4.38e-10
R08 N07 Port2 1.29e+03
.ENDS GCM21B7U2E272JX03
