*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/3.30e-03[uF]/250[V]
* Murata P/N :GCM21B7U2E332JX03
* Property : C = 3.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B7U2E332JX03 Port1 Port2
C01 Port1 N01 3.28e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.36e-10
R03 N02 N03 9.52e-03
L04 N03 N04 8.49e-11
R04 N03 N04 4.89e-01
C05 N04 N05 1.72e-08
L05 N04 N05 2.46e-11
R05 N04 N05 2.66e-01
C06 N05 N06 2.28e-09
L06 N05 N06 8.08e-11
R06 N05 N06 1.83e-02
C07 N06 N07 5.41e-09
L07 N06 N07 3.09e-11
R07 N06 N07 4.35e-01
C08 N07 Port2 1.16e-12
L08 N07 Port2 3.22e-10
R08 N07 Port2 2.40e+02
.ENDS GCM21B7U2E332JX03
